US04134987
The foregoing diacetyl acetanilide (2.2 g) in glacial acetic acid (30 ml) was treated with hydrazine hydrate (1.5 g) and the mixture boiled under reflux for 30 min. The mixture was then poured into water and the product collected and crystallised from ethanol. 3,5-dimethyl-N-phenyl-4-pyrazolecarboxamide (1.9 g, 86%) was obtained as colourless plates, m.p. 244-5° C (Found: C, 66.8 H, 6.0 N, 19.3 C12H13N3O requires C, 66.9; H, 6.1; N, 19.5%).

reactant | diacetyl acetanilide | 2.2 g | C(C)(=O)C(C(=O)NC1=CC=CC=C1)C(C)=O | C12H13NO3
reactant | hydrazine hydrate | 1.5 g | O.NN
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3,5-dimethyl-N-phenyl-4-pyrazolecarboxamide | 1.9 g, 86% | CC1=NNC(=C1C(=O)NC1=CC=CC=C1)C | C12H13N3O
